US06992067B2
a) 12-(2,3,4,5,6-Pentahydroxyhexanoylamino)dodecanoic acid (9)
3.5 g of 12-aminododecanoic acid are dissolved in 500 ml of methanol and, with 2.7 g of finely powdered sodium carbonate and 4.8 g of 3,4,5-trihydroxy-6-hydroxymethyltetrahydropyran-2-one, stirred at room temperature for 30 hours. The mixture is filtered off, the filtrate is concentrated and the residue is dissolved in 70 ml of water. With ice-cooling, 1N hydrochloric acid is added gradually until the pH is 1–2 (about 50–55 ml). The free acid precipitates out and is filtered off with suction, washed with a little cold water, and dried under high vacuum at 35° C. This gives 9 of molecular weight 393.48 (C18H35NO8); MS (ESI+): 394 (M+H+); (ESI−):392 (M−H)−.

reactant | 12-aminododecanoic acid | 3.5 g | NCCCCCCCCCCCC(=O)O | C12H25NO2
reactant | 3,4,5-trihydroxy-6-hydroxymethyltetrahydropyran-2-one | 4.8 g | OC1C(OC(C(C1O)O)CO)=O | C6H10O6
solvent | methanol | 500 ml | CO | CH4O
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 12-(2,3,4,5,6-Pentahydroxyhexanoylamino)dodecanoic acid | OC(C(=O)NCCCCCCCCCCCC(=O)O)C(C(C(CO)O)O)O | C18H35NO8
